US03941785
a. 2-Amino-3,4-dihydro-5-methyl-7(2-methylbutyl)imidazo[5,1-f]-as-triazine
2-Amino-5-methyl-7(2-methylbutyl)imidazo[5,1-f]-as-triazin-4(3H)-one (1.7 g.) and lithium aluminium hydride (0.9 g.) in diglyme (50 ml., freshly redistilled) were stirred and heated to 100° for 4.5 hours and cooled. Water (1 ml.) was added dropwise, followed by 2N sodium hydroxide (2 ml.) and water (1 ml.). The solid was filtered off, the filtrate was evaporated and the residue was crystallised from isopropanol. The product had m.p. 207°-213° (63%). It was converted to its hydrochloride, m.p. 203°-205.5° by treating a solution in ethanol with hydrogen chloride in ether.

reactant | 2-Amino-5-methyl-7(2-methylbutyl)imidazo[5,1-f]-as-triazin-4(3H)-one | 1.7 g | NC1=NN2C(C(N1)=O)=C(N=C2CC(CC)C)C | C11H17N5O
reactant | lithium aluminium hydride | 0.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diglyme | COCCOCCOC | C6H14O3
product | 2-Amino-3,4-dihydro-5-methyl-7(2-methylbutyl)imidazo[5,1-f]-as-triazine | NC1=NN2C(CN1)=C(N=C2CC(CC)C)C | C11H19N5
